US06635640B2
Pyridinium tribromide (90% (Aldrich), 9.8 g, 27.6 mmol) was added portion-wise over 10 minutes to a suspension of 5-(1H-indol-4-yl)-nicotinic acid (2.2 g, 9.2 mmol) in 2-methyl-2-propanol (54 mL), ethanol (36 mL) and acetic acid (108 mL). The mixture was stirred at room temperature for 2 hours and then acetic acid (10 mL) was added. After stirring for an additional hour, water (0.5 mL) and zinc dust (6 g, 92 mmol) were added and stirring was continued for another hour. Residual zinc dust was filtered and washed with methanol. The filtrate was concentrated and the syrupy residue was stirred in water (300 mL) overnight. The solid which formed was filtered, washed with water to remove zinc and pyridine salts and dried under high vacuum to give 2.3 g (98%) of 5-(2-oxo-2,3-dihydro-1H-indol-4-yl)-nicotinic acid.

reactant | Pyridinium tribromide | 27.6 mmol, 9.8 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 5-(1H-indol-4-yl)-nicotinic acid | 9.2 mmol, 2.2 g | N1C=CC2=C(C=CC=C12)C=1C=NC=C(C(=O)O)C1 | C14H10N2O2
reactant | water | 0.5 mL | O | H2O
solvent | 2-methyl-2-propanol | 54 mL | CC(C)(C)O | C4H10O
solvent | ethanol | 36 mL | C(C)O | C2H6O
solvent | acetic acid | 108 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 92 mmol, 6 g | [Zn] | Zn
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 5-(2-oxo-2,3-dihydro-1H-indol-4-yl)-nicotinic acid | 2.3 g, 98% | O=C1NC2=CC=CC(=C2C1)C=1C=NC=C(C(=O)O)C1 | C14H10N2O3
